US06770662B2
13 ml (20 mmol) of n-butyllithium (1.5 M hexane solution) was dropwise added at −78° C. to a solution having 4.0 g (19 mmol) of 2-bromo-4,5-(methylenedioxy)toluene dissolved in 50 ml of tetrahydrofuran, followed by stirring for 30 minutes, and 1.5 ml (19 mmol) of dimethylformamide was added thereto, followed by stirring for 70 minutes. 30 ml of water was added to the mixture to terminate the reaction, and tetrahydrofuran was distilled off under reduced pressure. Extraction with chloroform was carried out, the organic layer was dried over anhydrous sodium sulfate and subjected to filtration by using a silica gel cake, and the solvent was distilled off under reduced pressure to obtain 3.1 g (yield 99%) of 2-methyl-4,5-(methylenedioxy)benzaldehyde (m.p. 84-86° C.).

reactant | n-butyllithium | 20 mmol, 1.5 M, 13 ml | C(CCC)[Li]
reactant | 2-bromo-4,5-(methylenedioxy)toluene | 19 mmol, 4.0 g | BrC1=C(C=C2C(=C1)OCO2)C | C8H7BrO2
reactant | dimethylformamide | 19 mmol, 1.5 ml | CN(C=O)C | C3H7NO
reactant | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-methyl-4,5-(methylenedioxy)benzaldehyde | 3.1 g, yield 99% | CC1=C(C=O)C=C2C(=C1)OCO2 | C9H8O3
